US04801717
2 ml of concentrated sulfuric acid were added to a solution of 10 g of 3-nitro-4-fluoro-benzoic acid in 50 ml of ethanol and the mixture was refluxed for three hours. 8 ml of concentrated sulfuric acid were added to the mixture which was refluxed for 16 hours and was cooled to 20° C. The mixture was poured into water with stirring and was filtered. The solid product was washed and dried to obtain 10.5 g of ethyl 3-nitro-4-fluoro-benzoate melting at 50° C. The said product was reacted as in Example 1 to obtain 0-(4-ethoxycarbonyl-2-nitro-phenyl)-hydroxylamine melting at 102° C.

reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-nitro-4-fluoro-benzoic acid | 10 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1F | C7H4FNO4
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 3-nitro-4-fluoro-benzoate | 10.5 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1F | C9H8FNO4
